US06352976B1
1.4 Synthesis of 2-(4-methoxybenzylthio)-pentanoyl-(L)-homophenylalanine methyl ester
Combine 2-bromopentanoyl-(L)-homophenylalanine methyl ester (3.6 g, 10 mmol), 4-methyoxybenzylmercaptan (3.48 mL, 25 mmol), and tetrabutylammonium iodide (about 50 mg) in dimethylformamide (10 mL). Degas by repeatedly applying vacuum and filling the vessel with nitrogen. Add cesium carbonate (4.10 g, 12.5 mmol). After 15 hours, partition the reaction mixture between water and methyl t-butyl ether, saturate the aqueous layer with sodium chloride. Extract the aqueous layer with brine, dry over Na2SO4, filter, and evaporate in vacuo to give a residue. Chromatograph the residue on silica gel eluting sequentially with 4/1 hexane/ethyl acetate and then 2.5/1 hexane/ethyl acetate to give the title compound: Rf=0.44 (silica gel, 2.5/1 hexane/ethyl acetate).

reactant | 2-bromopentanoyl-(L)-homophenylalanine methyl ester | 10 mmol, 3.6 g | COC([C@@H](NC(C(CCC)Br)=O)CCC1=CC=CC=C1)=O | C16H22BrNO3
reactant | 4-methyoxybenzylmercaptan | 25 mmol, 3.48 mL | COC1=CC=C(CS)C=C1 | C8H10OS
reactant | cesium carbonate | 12.5 mmol, 4.10 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | hexane ethyl acetate | CCCCCC.C(C)(=O)OCC
catalyst | tetrabutylammonium iodide | about 50 mg | [I-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | dimethylformamide | 10 mL | CN(C=O)C | C3H7NO
product | 2-(4-methoxybenzylthio)-pentanoyl-(L)-homophenylalanine methyl ester | COC([C@@H](NC(C(CCC)SCC1=CC=C(C=C1)OC)=O)CCC1=CC=CC=C1)=O | C24H31NO4S
